US05229387
(8aR,12aS,13aS)-3-methoxy-12-(3-chloropropanesulfonyl)-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine as an oil, which was converted to the hydrochloride salt in ethanol/ether mixture by treatment with anhydrous hydrochloric acid, to give (8aR,12aS,13aS)-3-methoxy-12-(3-chloropropanesulfonyl)-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine hydrochloride, m.p. 203°-205° C., [α]D25 =+28.7° (c=0.55, CH3OH).

reactant | (8aR,12aS,13aS)-3-methoxy-12-(3-chloropropanesulfonyl)-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine | COC1=CC=2CCN3C[C@H]4CCCN([C@H]4C[C@H]3C2C=C1)S(=O)(=O)CCCCl | C20H29ClN2O3S
reactant | hydrochloric acid | Cl | ClH
reactant | CH3OH | CO | CH4O
solvent | ethanol ether | C(C)O.CCOCC
product | (8aR,12aS,13aS)-3-methoxy-12-(3-chloropropanesulfonyl)-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine hydrochloride | Cl.COC1=CC=2CCN3C[C@H]4CCCN([C@H]4C[C@H]3C2C=C1)S(=O)(=O)CCCCl | InChI=1S/C20H29ClN2O3S.ClH/c1-26-17-5-6-18-15(12-17)7-10-22-14-16-4-2-9-23(19(16)13-20(18)22)27(24,25)11-3-8-21;/h5-6,12,16,19-20H,2-4,7-11,13-14H2,1H3;1H/t16-,19+,20+;/m1./s1
